US04378314
4-Methanesulphonyloxypentanonitrile
To a cooled (ice bath) stirred solution of 4-hydroxypentanonitrile (18.8 g, 0.19 mol) in benzene (100 ml) and triethyl amine (20 g, 0.198 mol) was added dropwise a solution of methanesulphonyl chloride (22.34 g 0.195 mol) in benzene (20 ml) over a period of 40 min. After addition was complete the stirring was continued for 20 min at room temperature. The solid (TEA.HCl) was filtered off and washed with benzene. The filtrate and washings were combined and concentrated in vacuo to give 37.7 g of the title compond containing approximately 12% of benzene: 1Hmr (CDCl3) δ: 7.38 (3H, benzene), 4.82 (1H, q, J=13 Hz), 3.1 (3H, s), 2.48 (2H, dt), 2.0 (2H, dt) and 1.46 ppm (3H, t, J=13 Hz); ir (neat) νmax : 2243 cm-1.

reactant | 4-hydroxypentanonitrile | 0.19 mol, 18.8 g | OC(CCC#N)C | C5H9NO
reactant | triethyl amine | 0.198 mol, 20 g | C(C)N(CC)CC | C6H15N
reactant | methanesulphonyl chloride | 0.195 mol, 22.34 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
product | 4-Methanesulphonyloxypentanonitrile | CS(=O)(=O)OC(CCC#N)C | C6H11NO3S
